US08957068B2
To a round bottom flask containing (R)—N—((S)-1-(4-(1-ethoxyvinyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (0.49 g, 1.56 mmol) and chloroiodomethane (1.14 mL, 15.6 mmol) in toluene (15 mL) at 0° C. under argon was added diethylzinc (1.0M in hexanes) (15.6 mL, 15.6 mmol). Reaction mixture allowed to warm to room temperature and stirred for 1 hour. Reaction mixture was cooled to 0° C. in an ice bath and to the cold reaction mixture was slowly added a saturated solution of NH4Cl. The aqueous mixture was extracted with EtOAc. Organic phases combined, washed with water, brine, dried (Na2SO4), filtered and concentrated onto silica gel. Silica gel column chromatography (MeOH/CH2Cl2 0 to 10%) provided (R)—N—((S)-1-(4-(1-ethoxycyclopropyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (145 mg, 0.44 mmol, 28% yield) as a viscous brown oil. 1H NMR (300 MHz, CDCL3) δ 0.93-0.99 (m, 2H) 1.14-1.20 (m, 3H) 1.21 (s, 9H) 1.22-1.27 (m, 2H) 1.57-1.61 (m, 4H) 3.35 (d, J=4.98 Hz, 1H) 3.45 (q, J=7.07 Hz, 2H) 4.77-4.87 (m, 1H) 6.98 (dd, J=7.58, 1.43 Hz, 3H) 7.00-7.03 (m, 4H) 7.28-7.32 (m, 1H). LCMS m/z 328.1 (M+H)+, Rt 0.95 min.

reactant | (R)—N—((S)-1-(4-(1-ethoxyvinyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 1.56 mmol, 0.49 g | C(C)OC(=C)C1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F | C16H24FNO2S
reactant | chloroiodomethane | 15.6 mmol, 1.14 mL | ClCI | CH2ClI
reactant | diethylzinc | 15.6 mmol, 1.0M, 15.6 mL | C(C)[Zn]CC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | (R)—N—((S)-1-(4-(1-ethoxycyclopropyl)-2-fluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 0.44 mmol, 145 mg, 28% yield | C(C)OC1(CC1)C1=CC(=C(C=C1)[C@H](C)N[S@](=O)C(C)(C)C)F | C17H26FNO2S
